US06706707B2
c) 3-Cyclopropyl-5-(3,5-dimethyl-2-phenylethynyl-3H-imidazol-4-yl)-[1,2,4]oxadiazole
The title compound, white solid, m.p. 120° C. and MS: m/e=305.2 (M+H+), was prepared from 5-(2-bromo-3,5-dimethyl-3H-imidazol-4-yl)-3-cyclopropyl-[1,2,4]oxadiazole and phenylacetylene in accordance with the general procedure of example 12c.

reactant | 5-(2-bromo-3,5-dimethyl-3H-imidazol-4-yl)-3-cyclopropyl-[1,2,4]oxadiazole | BrC1=NC(=C(N1C)C1=NC(=NO1)C1CC1)C | C10H11BrN4O
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | 3-Cyclopropyl-5-(3,5-dimethyl-2-phenylethynyl-3H-imidazol-4-yl)-[1,2,4]oxadiazole | C1(CC1)C1=NOC(=N1)C=1N(C(=NC1C)C#CC1=CC=CC=C1)C | C18H16N4O
